US04554279
B. 8-Amino-5-(n-decoxy)-6-methoxyquinoline
A stirred mixture of 4.7 g (0.013 mole) of 5-decoxy-6-methoxy-8-nitroquinoline, 12 g of degreased 40 mesh iron filings, 6 ml of butyl ether, 6 ml of acetic acid and 30 ml of water was heated at 100° for 2 hr, cooled and filtered. The solid was washed with water, dried and extracted with diethyl ether. Evaporation of the diethyl ether, solution of the residue in petroleum ether (20°-40°) and cooling in Dry-Ice acetone gave 3.6 g of pale green solid. Two crystallizations from petroleum ether (20°-40°) (carbon) provided 2.3 g (54%) of amino compound as yellow-green solid, mp 65°.

reactant | 5-decoxy-6-methoxy-8-nitroquinoline | 0.013 mole, 4.7 g | C(CCCCCCCCC)OC1=C2C=CC=NC2=C(C=C1OC)[N+](=O)[O-] | C20H28N2O4
reactant | butyl ether | 6 ml | C(CCC)OCCCC | C8H18O
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
catalyst | iron | [Fe] | Fe
solvent | water | 30 ml | O | H2O
product | 8-Amino-5-(n-decoxy)-6-methoxyquinoline | 3.6 g | NC=1C=C(C(=C2C=CC=NC12)OCCCCCCCCCC)OC | C20H30N2O2
